US09062044B2
Intermediate 1: 3,8-Diaza-bicyclo[4.2.0]octane-3-carboxylic acid tert-butyl ester
3-Oxo-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester. A mixture of 1-benzyl-3-oxo-piperidine-4-carboxylic acid ethyl ester (11.31 g, 38 mmol), di-t-butyl dicarbonate (8.78 g, 40.2 mmol), Et3N (5.4 mL, 38.7 mmol) and Pd(OH)2 on carbon (20% on dry basis-Pearlman's catalyst) (1.3 g) were taken into EtOH (110 mL). The mixture was hydrogenated at 60 psi for 24 h in a Parr bottle. The catalyst was removed by filtration and the filtrate was concentrated to dryness to tan solid. Crude residue was shaken well with hexane (100 mL) and filtered. The filtrate was concentrated to yield the title compound (9.70 g, 94.25%). MS (ESI) mass calcd. for C13H21NO5, 271.32; 1H NMR (400 MHz, CDCl3) 4.24 (q, J=7.1, 2H), 4.03 (s br, 2H), 3.49 (t, J=5.6, 2H), 2.32 (m, 3H), 1.47 (s, 9H), 1.31 (t, J=7.1, 3H).

reactant | 3-Oxo-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester | C(C)OC(=O)C1C(CN(CC1)C(=O)OC(C)(C)C)=O | C13H21NO5
reactant | 1-benzyl-3-oxo-piperidine-4-carboxylic acid ethyl ester | 38 mmol, 11.31 g | C(C)OC(=O)C1C(CN(CC1)CC1=CC=CC=C1)=O | C15H19NO3
reactant | di-t-butyl dicarbonate | 40.2 mmol, 8.78 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Et3N | 38.7 mmol, 5.4 mL | CCN(CC)CC | C6H15N
catalyst | Pearlman's catalyst | [OH-].[OH-].[Pd+2]
catalyst | Pd(OH)2 on carbon | 1.3 g | [OH-].[OH-].[Pd+2]
solvent | EtOH | 110 mL | CCO | C2H6O
product | 3,8-Diaza-bicyclo[4.2.0]octane-3-carboxylic acid tert-butyl ester | 9.70 g, 94.25% | C(C)(C)(C)OC(=O)N1CC2NCC2CC1 | C11H20N2O2
